US06232290B1
To a solution of N-tert-butoxycarbonyl-4-piperidinone (3.3 g) and 1-(4-cyclohexylphenyl)piperazine (4.0 g) in dichloromethane (20 ml) was added titanium(IV)isopropoxide (8 ml) and the mixture was stirred at ambient temperature for 2 hours. Then, to the reaction mixture was added ethanol (20 ml) and sodium cyanoborohydride (1 g) in several portions, the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was pulverized with water. The precipitate was filtered off and the filtrate was extracted with dichloromethane. The organic layer was taken and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure and chromatographed (Silica gel 60 (Trademark: prepared by Merck)) eluting with hexane/ethyl acetate to afford 1-tert-butoxycarbonyl-4-[4-(4-cyclohexylphenyl)piperazin-1-yl]piperidine (1.35 g).

reactant | N-tert-butoxycarbonyl-4-piperidinone | 3.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-(4-cyclohexylphenyl)piperazine | 4.0 g | C1(CCCCC1)C1=CC=C(C=C1)N1CCNCC1 | C16H24N2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 1 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | titanium(IV)isopropoxide | 8 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | O | H2O
product | 1-tert-butoxycarbonyl-4-[4-(4-cyclohexylphenyl)piperazin-1-yl]piperidine | 1.35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCN(CC1)C1=CC=C(C=C1)C1CCCCC1 | C26H41N3O2
